US06482986B1
b) N-(4-Bromo-3,5-dichlorophenyl)acetamide
21.3 ml of bromine diluted in 82 ml of acetic acid are added over 6 hours to 84.86 g of N-(3,5-dichlorophenyl)acetamide and 34 g of sodium acetate in 420 ml of acetic acid. After 12 hours at room temperature, the reaction mixture is heated for 5 hours at 50° C. The solvents are evaporated off under reduced pressure. The residue obtained is recrystallized from isopropanol; m.p.=224° C.

reactant | bromine | 21.3 ml | BrBr | Br2
reactant | N-(3,5-dichlorophenyl)acetamide | ClC=1C=C(C=C(C1)Cl)NC(C)=O | C8H7Cl2NO
reactant | sodium acetate | 34 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 82 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 420 ml | C(C)(=O)O | C2H4O2
product | N-(4-Bromo-3,5-dichlorophenyl)acetamide | BrC1=C(C=C(C=C1Cl)NC(C)=O)Cl | C8H6BrCl2NO
